US07709500B2
Step 1: Tert-Butyl 4-(3-chloro-4-cyanophenoxy)piperidine-1-carboxylate
Potassium tert-butoxide (5.57 g, 49.68 mmol) was added to a solution of tert-butyl 4-hydroxypiperidine-1-carboxylate (5.00 g, 24.84 mmol) in glyme (100 ml) and the mixture stirred for 30 min. before addition of 2 chloro-4-fluoro-benzonitrile (7.73 g, 49.68 mmol). The reaction was stirred at room temperature overnight and then partitioned between ethyl acetate (250 ml) and water (200 ml). The organic layer was separated, dried over magnesium sulfate and the solvent evaporated. The residue was purified by flash chromatography eluting with ethyl acetate:isohexane (4:1) to give the subtitle compound as a colourless solid (3.45 g).

reactant | Potassium tert-butoxide | 49.68 mmol, 5.57 g | CC(C)([O-])C.[K+]
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 24.84 mmol, 5.00 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | chloro-4-fluoro-benzonitrile | 49.68 mmol, 7.73 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | glyme | 100 ml | C(OC)COC | C4H10O2
product | Tert-Butyl 4-(3-chloro-4-cyanophenoxy)piperidine-1-carboxylate | 3.45 g | ClC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1C#N | C17H21ClN2O3
